US08445501B2
4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(S)-1-((S)-2-hydroxy-propanoyl)-pyrrolidin-3-yl]amide
Starting from 4-(5-cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (S)-pyrrolidin-3-ylamide hydrochloride (example A143) and acetic acid (S)-1-chlorocarbonyl-ethyl ester the title compound is obtained as colorless solid.

reactant | 4-(5-cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (S)-pyrrolidin-3-ylamide hydrochloride | Cl.N1C[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1
reactant | acetic acid (S)-1-chlorocarbonyl-ethyl ester | ClC(=O)[C@H](C)OC(C)=O | C5H7ClO3
product | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(S)-1-((S)-2-hydroxy-propanoyl)-pyrrolidin-3-yl]amide | O[C@H](C(=O)N1C[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1)C | C25H27N5O6
